US05001140
Preparation of 2,2-diethylsuccinic anhydride
A mixture of 3.5 g (20 mol) of 2,2-diethylsuccinic acid and 10 ml of acetyl chloride was heated under reflux for 2 hr, cooled, concentrated in vacuo, and reconcentrated three times after the addition of toluene. The residue was used without further purification.

reactant | 2,2-diethylsuccinic acid | 20 mol, 3.5 g | C(C)C(C(=O)O)(CC(=O)O)CC | C8H14O4
solvent | acetyl chloride | 10 ml | C(C)(=O)Cl | C2H3ClO
product | 2,2-diethylsuccinic anhydride | C(C)C1(C(=O)OC(C1)=O)CC | C8H12O3
